US04329347
6-[4-(1,2,4-Triazol-3-yl-mercapto)-butoxy]-carbostyril
Prepared analogous to Example 122 from 6-(4-bromobutoxy)-carbostyril and 3-mercapto-1,2,4-triazole.

reactant | 6-(4-bromobutoxy)-carbostyril | BrCCCCOC=1C=C2C=CC(NC2=CC1)=O | C13H14BrNO2
reactant | 3-mercapto-1,2,4-triazole | SC1=NNC=N1 | C2H3N3S
product | 6-[4-(1,2,4-Triazol-3-yl-mercapto)-butoxy]-carbostyril | N1N=C(N=C1)SCCCCOC=1C=C2C=CC(NC2=CC1)=O | C15H16N4O2S
